US06048842
3-(5-Benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-allyloxy-4'-methylpropiophenone (470 mg) is dissolved in acetonitrile (7 ml), and thereto are added dichlorobis(triphenylphosphine)-palladium (II) (17.7 mg,) and ammonium formate (319 mg), and the mixture is heated under reflux overnight. After cooling, the insoluble materials are removed by filtration, and the filtrate is concentrated. To the residue are added ethyl acetate and water, and the mixture is shaken. The organic layer is separated, washed with water, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give 3-(5-benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (370 mg).

reactant | 3-(5-Benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-allyloxy-4'-methylpropiophenone | 470 mg | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2OCC=C)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(=O)OC | C29H32O11
reactant | ammonium formate | 319 mg | C(=O)[O-].[NH4+]
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)-palladium (II) | 17.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(5-benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 370 mg | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(=O)OC | C26H28O11
